US04877899
Tert-butyl hypochlorite (2.06 g, 19.0 mmol) is added dropwise at -50° to a solution of 3-hexylthio-1-propene (3.0 g, 19.0 mmol) in 20 ml of methylene chloride. The mixture is allowed to warm to RT and is then stripped of solvent to give 3-hexylthio-2-propenyl chloride.

reactant | Tert-butyl hypochlorite | 19.0 mmol, 2.06 g | ClOC(C)(C)C | C4H9ClO
reactant | 3-hexylthio-1-propene | 19.0 mmol, 3.0 g | C(CCCCC)SCC=C | C9H18S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-hexylthio-2-propenyl chloride | C(CCCCC)SC=CCCl | C9H17ClS
